US06310095B1
4-(chloromethyl)-benzoylmethionine, methyl ester
A mixture of 4-(chloromethyl)-benzoyl chloride (0.189 g, 1 mmol), methionine methyl ester hydrochloride (0.199 g, 1 mmol), and 0.5 ml of pyridine in 5 ml of chloroform was stirred for 12 hours. The organic solution was washed with 10% HCl, brine, and dried over MgSO4. Flash chromatography of the residue afforded 0.20 g of desired product (64%).

reactant | 4-(chloromethyl)-benzoyl chloride | 1 mmol, 0.189 g | ClCC1=CC=C(C(=O)Cl)C=C1 | C8H6Cl2O
reactant | methionine methyl ester hydrochloride | 1 mmol, 0.199 g | Cl.COC([C@@H](N)CCSC)=O
reactant | pyridine | 0.5 ml | N1=CC=CC=C1 | C5H5N
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-(chloromethyl)-benzoylmethionine, methyl ester | 0.20 g, 64% | ClCC1=CC=C(C(=O)N[C@@H](CCSC)C(=O)OC)C=C1 | C14H18ClNO3S
